US03954764
15.4 g. of 10-chloro-8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin are treated with 41 g. of 3-[2-(1-piperazinyl)ethyl]-2-oxazolidinone and stirred at 120°-130°C. (internal temperature) for 10 minutes. The cooled mixture is treated with 2N sodium hydroxide and extracted with chloroform. The chloroform solution is washed to neutrality with water and shaken out with dilute methanesulfonic acid. The acid solution is made alkaline with sodium hydroxide and the base extracted with chloroform. The organic solution is washed with water, dried over magnesium sulfate and concentrated. The residue is recrystallized from acetone, whereby there is obtained 3-{2-[4-(8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone of melting point 177°-179°C. The corresponding maleate melts at 212°-214°C.

reactant | 10-chloro-8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=C(C=C2)OC | C15H12ClFOS
reactant | 3-[2-(1-piperazinyl)ethyl]-2-oxazolidinone | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3-{2-[4-(8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | FC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)OC)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28FN3O3S
